US06849639B2
Step C: Methyl 5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidine-3-carboxylate
Benzyl isocyanate (2.3 mL, 18.6 mmol, 1.2 equiv) was added to a solution of methyl 1-(3-aminophenyl)-5-oxopyrrolidine-3-carboxylate (3.6169 g, 15.4 mmol, 1 equiv) in dichloromethane (77 mL). The resulting solution was stirred at 23° C. for 27 hr, during which time a white precipitate formed. The reaction was filtered, and the solid was collected to give the title compound as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.68 (s, 1H), 7.76 (t, 1H, J=1.8 Hz), 7.13-7.36 (m, 8H), 6.59 (t, 1H, J=5.9 Hz), 4.30 (d, 2H, J=5.9 Hz), 4.03 (dd, 1H, J=9.7 Hz, 8.7 Hz), 3.94 (dd, 1H, J=9.5 Hz, 6.1 Hz), 3.68 (s, 3H), 3.41-3.50 (m, 1H), 2.80 (dd, 1H, J=17.0 Hz, 9.5 Hz), 2.71 (dd, 1H, J=17.0 Hz, 7.0 Hz). MS: (+) 368.0 (M+H), 385.5, 390.0, 735.5; (−) 366.0 (M−H), 426.0, 733.5, 793.5.

reactant | Benzyl isocyanate | 18.6 mmol, 2.3 mL, 1.2 equiv | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | methyl 1-(3-aminophenyl)-5-oxopyrrolidine-3-carboxylate | 15.4 mmol, 3.6169 g, 1 equiv | NC=1C=C(C=CC1)N1CC(CC1=O)C(=O)OC | C12H14N2O3
solvent | dichloromethane | 77 mL | ClCCl | CH2Cl2
product | Methyl 5-oxo-1-(3-{(benzylamino)carbonylamino}phenyl)pyrrolidine-3-carboxylate | O=C1CC(CN1C1=CC(=CC=C1)NC(=O)NCC1=CC=CC=C1)C(=O)OC | C20H21N3O4
